US04996330
EXAMPLE 1 (preparation of the tartarimide)
0.1 mol (15.0 g) of L(+)-tartaric acid is dissolved in 5 ml of hot water and 0.1 mol (12.9) g) of n-octylamine is added dropwise (at about 100° C.). A homogeneous solution is obtained by heating to about 120° C., with considerable formation of foam. The reaction mixture is then allowed to stand for about 12 hours and is then heated at about 140° C. for 8 hours; the water formed in the condensation reaction is volatized. After cooling, the liquid solidifies; the product, composed of about 28 g of a brown, viscous mass, is recrystallized 3 times from ethanol and is washed with diethyl ether. The pure product melts at 140° C. to 143° C. and has an [α]20°C.D of +117° C. in ethanol.

reactant | L(+)-tartaric acid | 0.1 mol, 15.0 g | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
reactant | n-octylamine | C(CCCCCCC)N | C8H19N
solvent | water | 5 ml | O | H2O
product | tartarimide | C1(C(O)C(O)C(N1)=O)=O | C4H5NO4
